* C:\Users\anash\OneDrive\Desktop\QNN REPO\PHz-electronics-UROP-project\update_antenna_modelCopy.asc
* Generated by LTspice 26.0.2 for Windows.
C1 N002 N004 {0.57*Cbody/(cp+1)}
Cgap1 0 btmEmtr1 {Cgap}
C2 0 N002 {Cwirebody}
Rbod1 N002 N003 {0.5*(cp+1)*Rbody}
R1 N004 N005 {0.5*(1-cp)*Rbody}
L1 N003 N004 {0.5*(cp+1)*Lbody}
L2 N005 btmEmtr1 {0.5*(1-cp)*Lbody}
R2 N001 tpEmtr1 {Rin}
C3 N002 N001 {1*Cin}
C4 N004 btmEmtr1 {0.57*Cbody/(1-cp)}
C5 N002 N004 {0.57*Cbody/(cp+1)}
C6 N004 btmEmtr1 {0.57*Cbody/(1-cp)}
O1 N004 0 E1 C1 FudgeLine
O2 E2 C2 N004 0 FudgeLine
B1 tpEmtr1 0 V= gaussian_pulse({amp}, {del}, {sigdur} , {freq}, {phase})
B§EmissionSrc1 btmEmtr1 0 I = 0.99*ifn(2.4E-16, 1.5414u, 6.8309G, 5.3, -1*V(btmEmtr1), 40n, 7.22) + 0.01*is(1.6E-16, 1, 290, 5.3, -1*V(btmEmtr1), 40n, 7.22)
.include 2026_nanoantenna_subckt_files\configSUBCKT.yaml
.tran 0 280 0 0.003
.param cp =-0.71
.step param leff list 0.8 0.95 1.0 1.125 1.25 1.375 1.5
.func gaussian_pulse(a, b, c, freq, phase) (a/c)*exp(-square((time- b)/c)/2)*cos(2*pi*freq*(time - b)-phase)
.param del = 30
.opt method=gear Trtol=0.02
.param sigdur = 7.5
.param freq = 0.17
.model MyLossyTline LTRA(len={leff*0.2u} R=600G L=5.791T C=13.3)
.model FudgeLine LTRA(len=0.075u R=600G L=5.791T C=13.3)
.backanno
.end
